2153-11-16 08:04:00 Physician Resident Progress Note
TITLE:  RESIDENT PHYSICIAN PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2153-11-15**] 08:24 PM
 NASAL SWAB - At [**2153-11-15**] 08:30 PM
   Allergies:
   Clozapine
   Lightheadedness
   Phenothiazines
   Unknown; felt v
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-11-15**] 11:17 PM
   Heparin Sodium (Prophylaxis) - [**2153-11-15**] 11:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-11-16**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 82 (69 - 91) bpm
   BP: 99/53(64) {90/49(62) - 176/111(125)} mmHg
   RR: 19 (11 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    216 mL
                                                                  1,430 mL
   PO:
             TF:
   IVF:
                                                                    216 mL
                                                                  1,430 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    127 mL
   Urine:
                                                                    880 mL
                                                                    127 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -664 mL
                                                                  1,303 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 450) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   Plateau: 11 cmH2O
   SpO2: 100%
   ABG: 7.37/54/132/28/4
   Ve: 4.5 L/min
   PaO2 / FiO2: 330
   Physical Examination
   Gen: NAD, awake and alert. Off of all sedation.
   HEENT: Trach in place. Patient breathing spontaneously with trach mask.
   CV: RRR no m/r/g
   Pulm: Course breath sounds. Diffuse rhonchi.
   Abd: +bs, soft, nt, nd
   Ext: wwp, no c/c/e
   Labs / Radiology
   232 K/uL
   11.0 g/dL
   120 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.1 mEq/L
   9 mg/dL
   99 mEq/L
   135 mEq/L
   33.8 %
   10.3 K/uL
        [image002.jpg]
                             [**2153-11-15**]  09:33 PM
                             [**2153-11-16**]  01:52 AM
                             [**2153-11-16**]  05:54 AM
   WBC
   10.3
   Hct
   33.8
   Plt
   232
   Cr
   0.6
   TCO2
   31
   32
   Glucose
   120
   Other labs: PT / PTT / INR:12.8/31.1/1.1, Differential-Neuts:83.9 %,
   Lymph:11.6 %, Mono:3.4 %, Eos:1.1 %, Ca++:9.2 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 1715**] is a 57 year old female with a PMH significant for
   schizophrenia admitted on [**2153-11-9**] for laryngeal CA now transferred to
   the [**Hospital Unit Name 4**] s/p trach, PEG, and tooth extraction.
   .
   # s/p tracheostomy: Patient underwent trach in anticipation of XRT and
   chemotherapy for laryngeal CA. Has been stable, airway patent,
   breathing spontaneously.
   - f/u ENT recs
   - pain control with acetaminophen and fentanyl patch
   .
   # rhonchi on lung exam: Likely [**2-12**] difficulty clearing secretions with
   trach in place. Ddx includes pneumonia.
   - repeat CXR to evaluate for pneumonia
   - continue albuterol and ipratropium nebs.
   .
   # s/p PEG: Okay to use PEG.
   - begin tube feeds.
   .
   # hypotension/low urine output: Likely [**2-12**] hypovolemia in setting of
   NPO x days with minimal maintenance fluids. Has been fluid-responsive.
   - IV fluids
   - hold antihypertensive meds
   .
   # Laryngeal CA: Per primary oncologist. Plan will be to begin XRT and
   chemotherapy in 10 days.
   - follow-up with oncology team recs.
   .
   # CAD:
   - will need to verify home meds and restart cardiac meds when stable
   and clinically indicated
   .
   # Schizoaffective disorder. Patient is competent, but legal and psych
   has been involved. Patient consented and signed in presence of sister
   [**Name (NI) 225**] and Mother (next-of-[**Doctor First Name 23**]).
   - involve sister and mother in consent process if consents are needed
   ICU Care
   Nutrition: TF per nutrition recs, IV fluids, replete lytes as necessary
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-11-15**] 07:56 PM
   22 Gauge - [**2153-11-15**] 07:56 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  PPI
   VAP:  per routine
   Comments:
   Communication:  Comments: (HCP) [**Name (NI) 2086**] [**Name (NI) 1715**] [**Telephone/Fax (3) 9799**]
   Code status: Full (confirmed)
   Disposition: Likely call-out today

2153-11-16 10:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Oliguria overnight, responded to iv fluid boluses.
   Improved this AM.
   Received  mechanical ventilation overnight, now on trach collar this
   AM.
   Tolerating tracheotomy tube with trach mask.
   Copius secretions, clearing easily.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Clozapine
   Lightheadedness
   Phenothiazines
   Unknown; felt v
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-11-15**] 11:17 PM
   Heparin Sodium (Prophylaxis) - [**2153-11-16**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-11-16**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 70 (69 - 91) bpm
   BP: 95/55(63) {88/49(61) - 176/111(125)} mmHg
   RR: 12 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    216 mL
                                                                  1,623 mL
   PO:
             TF:
   IVF:
                                                                    216 mL
                                                                  1,623 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    227 mL
   Urine:
                                                                    880 mL
                                                                    227 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -664 mL
                                                                  1,396 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 450) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   Plateau: 11 cmH2O
   SpO2: 100%
   ABG: 7.37/54/132/28/4
   Ve: 4.5 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Tracheostomy tube
   intact
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : ), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, G-tube in place
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.0 g/dL
   232 K/uL
   120 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.1 mEq/L
   9 mg/dL
   99 mEq/L
   135 mEq/L
   33.8 %
   10.3 K/uL
        [image002.jpg]
                             [**2153-11-15**]  09:33 PM
                             [**2153-11-16**]  01:52 AM
                             [**2153-11-16**]  05:54 AM
   WBC
   10.3
   Hct
   33.8
   Plt
   232
   Cr
   0.6
   TCO2
   31
   32
   Glucose
   120
   Other labs: PT / PTT / INR:12.8/31.1/1.1, Differential-Neuts:83.9 %,
   Lymph:11.6 %, Mono:3.4 %, Eos:1.1 %, Ca++:9.2 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   57 yof schizophrenia, tobacco abuse, now with laryngeal CA --> s/p
   trach, G-tube, and tooth extraction.
   TRACHEOSTOMY TUBE -- tolerating well.  Upper airway obstruction
   bypassed.  Monitor RR, SaO2.  Monitor off mechaniccal ventilation.
   HOpe to work towards Passe-Muir valve to allow speech.
   HYPOTENSION -- suspect pharmacological and hypovolemia.  Plan continue
   iv fluid bolus/resussitation.
   RENAL FUNCTION -- prerenal.  Continue iv fluid bolus.
   TOBACCO ABUSE -- may require nicotine patch if symptoms of nicotine
   withdrawal.
   NUTRITIONAL SUPPORT -- initiate TF via G-Tube
   DENTAL EXTRACTION
 optimize pain management.
   LARYNGEAL CA -- trach for bypassing upper airway obstruction.  Awaiting
   XRT and chemotherapy.
   SCHIZOPHRENIA -- verify medications, and resume.
   [**Month (only) 8**] be able to
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-11-15**] 07:56 PM
   22 Gauge - [**2153-11-15**] 07:56 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-11-17 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   doing well, pain well controlled
   Allergies:
   Clozapine
   Lightheadedness
   Phenothiazines
   Unknown; felt v
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-11-17**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-11-17**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.5
C (99.5
   HR: 62 (58 - 91) bpm
   BP: 123/62(78) {87/42(58) - 151/78(92)} mmHg
   RR: 14 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,573 mL
                                                                    752 mL
   PO:
             TF:
                                                                    245 mL
                                                                    155 mL
   IVF:
                                                                  4,128 mL
                                                                    547 mL
   Blood products:
   Total out:
                                                                  1,567 mL
                                                                    480 mL
   Urine:
                                                                  1,567 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,006 mL
                                                                    272 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Gen: NAD, awake and alert. Off of all sedation.
   HEENT: Trach in place. Patient breathing spontaneously with trach mask.
   CV: RRR no m/r/g
   Pulm: Course breath sounds. Diffuse rhonchi.
   Abd: +bs, soft, nt, nd
   Ext: wwp, no c/c/e
   Labs / Radiology
   163 K/uL
   9.8 g/dL
   183 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.4 mEq/L
   5 mg/dL
   105 mEq/L
   137 mEq/L
   32.6 %
   7.2 K/uL
        [image002.jpg]
                             [**2153-11-15**]  09:33 PM
                             [**2153-11-16**]  01:52 AM
                             [**2153-11-16**]  05:54 AM
                             [**2153-11-17**]  04:31 AM
   WBC
   10.3
   7.2
   Hct
   33.8
   32.6
   Plt
   232
   163
   Cr
   0.6
   0.5
   TCO2
   31
   32
   Glucose
   120
   183
   Other labs: PT / PTT / INR:13.0/42.6/1.1, Differential-Neuts:83.9 %,
   Lymph:11.6 %, Mono:3.4 %, Eos:1.1 %, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 1715**] is a 57 year old female with a PMH significant for
   schizophrenia admitted on [**2153-11-9**] for laryngeal CA now transferred to
   the [**Hospital Unit Name 4**] s/p trach, PEG, and tooth extraction.
   .
   # s/p tracheostomy: Patient underwent trach in anticipation of XRT and
   chemotherapy for laryngeal CA. Has been stable, airway patent,
   breathing spontaneously.
   - f/u ENT recs
   - pain control with acetaminophen and fentanyl patch
   .
   # rhonchi on lung exam: Likely [**2-12**] difficulty clearing secretions with
   trach in place. Ddx includes pneumonia.
   - repeat CXR to evaluate for pneumonia
   - continue albuterol and ipratropium nebs.
   .
   # s/p PEG: Okay to use PEG.
   - begin tube feeds.
   .
   # hypotension/low urine output: Likely [**2-12**] hypovolemia in setting of
   NPO x days with minimal maintenance fluids. Has been fluid-responsive.
   - IV fluids
   - hold antihypertensive meds
   .
   # Laryngeal CA: Per primary oncologist. Plan will be to begin XRT and
   chemotherapy in 10 days.
   - follow-up with oncology team recs.
   .
   # CAD:
   - will need to verify home meds and restart cardiac meds when stable
   and clinically indicated
   .
   # Schizoaffective disorder. Patient is competent, but legal and psych
   has been involved. Patient consented and signed in presence of sister
   [**Name (NI) 225**] and Mother (next-of-[**Doctor First Name 23**]).
   - involve sister and mother in consent process if consents are needed
   ICU Care
   Nutrition: TF per nutrition recs, IV fluids, replete lytes as necessary
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-11-15**] 07:56 PM
   22 Gauge - [**2153-11-15**] 07:56 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  PPI
   VAP:  per routine
   Comments:
   Communication:  Comments: (HCP) [**Name (NI) 2086**] [**Name (NI) 1715**] [**Telephone/Fax (3) 9799**]
   Code status: Full (confirmed)
   Disposition: Likely call-out today
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   She will have speech/ swallow evaluation when ready to transition to
   PMV. She will transfer to the floor since there have been no problems
   with worsening hypotension and oliguria. Oncology staff to decide
   regarding chemotherapy and radiation.
   Total time: 30 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**], MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]